US07772230B2
(3) Preparation of 2,3-dihydro-6-hydroxy benzopyran-4-one
Glacial acetic acid and HBr (>40%) each 20 ml are successively added to methoxy benzopyran-4-one 2.9 g (0.0163 mol), stirred and refluxed for 1 h, and then the reactant liquor is modulated pH for 10-11 by KOH, the water layer is modulated pH for 2-3 by concentrated hydrochloric acid, and then extracted by ethyl acetate; the organic layers are combined and dried over anhydrous Na2SO4, cooled to precipitate black solid, and recrystallized by ethyl acetate, to obtain bright yellow crystal 2.17 g, m.p.: 142-144° C., yield: 81.2%.

reactant | HBr | Br | BrH
reactant | methoxy benzopyran-4-one | 0.0163 mol, 2.9 g | COC=1OC2=C(C(C1)=O)C=CC=C2 | C10H8O3
reactant | KOH | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3-dihydro-6-hydroxy benzopyran-4-one | 2.17 g, yield: 81.2% | OC=1C=CC2=C(C(CCO2)=O)C1 | C9H8O3
